US04654360
1-(4-Chlorobenzyl)-2-chloro-3-phenylsulfonylindole
This compound was prepared in the same manner as described in Example 17 except that following the addition of 4-chlorobenzylchloride to the anion of 2-chloro-3-phenylsulfonylindole, the reaction mixture was stirred at 90° for 4 hours. The crude product was crystallized from dichloromethane-hexane to give the product.

reactant | 4-chlorobenzylchloride | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
reactant | 2-chloro-3-phenylsulfonylindole | ClC=1NC2=CC=CC=C2C1S(=O)(=O)C1=CC=CC=C1 | C14H10ClNO2S
product | 1-(4-Chlorobenzyl)-2-chloro-3-phenylsulfonylindole | ClC1=CC=C(CN2C(=C(C3=CC=CC=C23)S(=O)(=O)C2=CC=CC=C2)Cl)C=C1 | C21H15Cl2NO2S
